US07262212B2
2-(4-Trifluoromethylphenyl)ethylamine (0.431 g, 2.28 mmol) prepared in Reference Example 119 and 1-benzyl-4-piperidone (0.517 g, 2.73 mmol) were dissolved in methanol (15 ml), to which sodium cyanoborohydride (0.429 g, 6.83 mmol) and acetic acid (0.52 ml, 9.11 mmol) were added, and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The mixture was washed with saturated sodium bicarbonate aqueous solution and brine. The organic layer was dried over sodium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in methanol (5 ml), to which di-tert-butyl dicarbonate (0.597 g, 2.74 mmol) was added, and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with brine. The organic layer was dried over sodium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to afford tert-butyl N-(1-benzylpiperidin-4-yl)-N-[2-(4-trifluoromethylphenyl)ethyl]carbamate (0.437 g, yield 41%) as a colorless oil.

reactant | 2-(4-Trifluoromethylphenyl)ethylamine | 2.28 mmol, 0.431 g | FC(C1=CC=C(C=C1)CCN)(F)F | C9H10F3N
reactant | 1-benzyl-4-piperidone | 2.73 mmol, 0.517 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium cyanoborohydride | 6.83 mmol, 0.429 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 9.11 mmol, 0.52 ml | C(C)(=O)O | C2H4O2
reactant | di-tert-butyl dicarbonate | 2.74 mmol, 0.597 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(1-benzylpiperidin-4-yl)-N-[2-(4-trifluoromethylphenyl)ethyl]carbamate | 0.437 g, yield 41% | C(C1=CC=CC=C1)N1CCC(CC1)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C(F)(F)F | C26H33F3N2O2
